US07141598B2
(ii) Production of 5,6-dihydro-7H-pyrrolo[1,2-c]imidazol-7-one
3-Bromo-1-(1H-imidazol-4-yl)-1-propanone (28.5 g) was suspended in acetonitrile (1100 ml) and the suspension was warmed to 70° C. A solution of triethylamine (15.3 ml) in acetonitrile (25 ml) was slowly added dropwise and the mixture was stirred at 70° C. for 2 h. Triethylamine (25 ml) was further added and the mixture was stirred for 30 min. The reaction mixture was cooled to room temperature and the insoluble material was filtered off. The solvent was evaporated and the residue was dissolved in ethyl acetate again. The insoluble material was filtered off and the solvent was evaporated. The resulting residue was subjected to silica gel column chromatography (eluent; dichloromethane:methanol containing ammonia (5%)=10:1) for purification to give the title compound (6.67 g) as a colorless powder.

reactant | 3-Bromo-1-(1H-imidazol-4-yl)-1-propanone | 28.5 g | BrCCC(=O)C=1N=CNC1 | C6H7BrN2O
reactant | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5,6-dihydro-7H-pyrrolo[1,2-c]imidazol-7-one | 6.67 g | C1=C2N(C=N1)CCC2=O | C6H6N2O
